US07645784B2
C. Methyl 1-(2-hydroxyethyl)-1H-benzimidazole-7-carboxylate
Suspension of methyl 2-[(2-hydroxyethyl)amino]-3-nitrobenzoate (3.06 g, 12.7 mmol) in methanol (130 mL) was hydrogenated at atmospheric pressure over 10% palladium on activated charcoal for 10 min. The mixture was filtered through a pad of Celite and the solvent was removed in vacuum. The residue was dissolved in formic acid (60 mL) and heated at 100° C. for 45 min and then kept at ambient temperature overnight. Excess of the formic acid was removed under reduced pressure. The residue was dissolved in methanol (100 mL) and treated with concentrated ammonia in methanol (20 mL) for 50 min followed by evaporation of the volatiles. Purification by column chromatography on silica using dichloromethane in methanol 95:5 afforded methyl 1-(2-hydroxyethyl)-1H-benzimidazole-7-carboxylate, 2.31 g (83%). %). MS (ESI) m/z 221 [M+H]. 1H NMR (400 MHz, CD3OD) δ ppm 3.78 (t, J=5.05 Hz, 2H), 3.96 (s, 3H), 4.70 (t, J=5.05 Hz, 2H), 7.33 (t, J=7.83 Hz, 1H), 7.84-7.91 (m, 2H), 8.20 (s, 1H).

reactant | methyl 2-[(2-hydroxyethyl)amino]-3-nitrobenzoate | 12.7 mmol, 3.06 g | OCCNC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C10H12N2O5
reactant | methanol | 130 mL | CO | CH4O
catalyst | palladium on activated charcoal | [Pd] | Pd
product | Methyl 1-(2-hydroxyethyl)-1H-benzimidazole-7-carboxylate | OCCN1C=NC2=C1C(=CC=C2)C(=O)OC | C11H12N2O3
